US07435744B2
2-[4-(4-Cyano-benzyl)-piperidin-1-yl]-2-oxo-N-(2-oxo-2,3-dihydro-benzoxazol-6-yl)-acetamide (45 70002844)
To a mixture of 0.3g (1.5 mmol) of N-(2-oxo-2,3-dihydro-benzoxazol-6-yl)-oxalamic acid, 0.165 ml (1.5 mmol) of N-methyl-morpholine in 8 ml of dimethylformamid 0.2 ml (1.5 mmol) of isobutyl-chloroformate is added dropwise at 0° C. and the mixture is stirred at 0° C. for 1 hour. Then 0.333 g (1.4 mmol) of 4-piperidin-4-ylmethyl-benzonitrile hydrochloride and 0.165 ml (1.5 mmol) of N-methyl-morpholine are added and the reaction mixture is stirred at 0° C. for 1 hour, at room temperature for 16 hours. The reaction mixture is concentrated and the residue is purified by column chromatography using Kieselgel 60 (Merck) as adsorbent and toluene:methanol=4:1 as eluent to yield 0.045 g (8.0%) of the title compound. Rf.: 0.4. Melting Point: 259-260° C. (isopropanol).

reactant | N-(2-oxo-2,3-dihydro-benzoxazol-6-yl)-oxalamic acid | 1.5 mmol, 0.3g | O=C1OC2=C(N1)C=CC(=C2)NC(C(=O)O)=O | C9H6N2O5
reactant | N-methyl-morpholine | 1.5 mmol, 0.165 ml | CN1CCOCC1 | C5H11NO
reactant | dimethylformamid | 1.5 mmol, 8 ml | CN(C=O)C | C3H7NO
reactant | isobutyl-chloroformate | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 4-piperidin-4-ylmethyl-benzonitrile hydrochloride | 1.4 mmol, 0.333 g | Cl.N1CCC(CC1)CC1=CC=C(C#N)C=C1
reactant | N-methyl-morpholine | 1.5 mmol, 0.165 ml | CN1CCOCC1 | C5H11NO
product | 2-[4-(4-Cyano-benzyl)-piperidin-1-yl]-2-oxo-N-(2-oxo-2,3-dihydro-benzoxazol-6-yl)-acetamide | 0.045 g, 8.0% | C(#N)C1=CC=C(CC2CCN(CC2)C(C(=O)NC2=CC3=C(NC(O3)=O)C=C2)=O)C=C1 | C22H20N4O4
